* nmos_tail_pair — generated from DeviceSpecs; do not edit by hand
.SUBCKT nmos_tail_pair e1 e2 mgate vss
M1 e1 mgate vss sub sg13_lv_nmos w=243u l=1u ng=1 m=1
M2 e2 mgate vss sub sg13_lv_nmos w=243u l=1u ng=1 m=1
.ENDS nmos_tail_pair
